US07939513B2
Preparation of (S)-1-propylpyrrolidine-2-carboxylic acid
A suspension of 1-n-propyl pyrrolidine-2-carboxylic acid benzyl ester (2.0 g, 8.09 mmol) and 10% Pd on charcoal in methanol (30 mL) was hydrogenated over 12 h. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated (1 g, 77%).

reactant | 1-n-propyl pyrrolidine-2-carboxylic acid benzyl ester | 8.09 mmol, 2.0 g | C(C1=CC=CC=C1)OC(=O)C1N(CCC1)CCC | C15H21NO2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd on charcoal | [Pd] | Pd
product | (S)-1-propylpyrrolidine-2-carboxylic acid | C(CC)N1[C@@H](CCC1)C(=O)O | C8H15NO2
